US06797823B1
N′-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-methyl-N-propylurea
2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline (56 mg) was dissolved in chloroform (4 ml) and triethylamine (0.3 ml), and a solution of triphosgene (50 mg) in chloroform was then added to the solution. The mixture was stirred at room temperature for 30 min. Next, N-methylpropylamine (26 μl) was added to the reaction solution, and the mixture was stirred at room temperature for additional one hr. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol. The solvent was removed by distillation, and the resultant crystal was washed with hexane to give 42 mg (yield 58%) of the title compound.

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline | 56 mg | ClC1=C(N)C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
reactant | triphosgene | 50 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N-methylpropylamine | 26 μl | CNCCC | C4H11N
reactant | Methanol | CO | CH4O
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | N′-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-methyl-N-propylurea | 42 mg, yield 58% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)NC(N(CCC)C)=O | C21H23ClN4O4
